US07312220B2
Preparation of 1-(4-Fluorobenzyl)-1H-benzo[d][1,3]oxazine-2,4-dione (Compound 5)
A solution of isatoic anhydride (20 g, 122 mmol) in dimethylformamide (DMF) was added to a suspension of NaH (60% in mineral oil, 5.39 g, 135 mmol) in DMF and stirred at room temperature for 1 h. Then, 4-fluorobenzyl bromide (16.8 mL, 135 mmol) was added and the mixture stirred at room temperature for 4 h. The solution was poured into water and the solids formed were filtered, washed several times by water and dried. The solids were suspended in hexane, sonicated briefly, filtered, and washed by hexane to yield 30 g (90%) of white solids. M.P. 167° C. 1H NMR (DMSO-d6): δ 5.27 (s, 2H), 7.17 (t, J=8.8 Hz, 2H), 7.25 (d, J=8.4 Hz, 1H), 7.31 (t, J=7.4 Hz, 1H), 7.47 (m, 2H), 7.74 (t, J=7.0 Hz, 1H), 8.02 (d, J=7.8 Hz, 1H). Anal. (C15H10FNO3) C, H, N.

reactant | isatoic anhydride | 122 mmol, 20 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | NaH | 135 mmol, 5.39 g | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 135 mmol, 16.8 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-Fluorobenzyl)-1H-benzo[d][1,3]oxazine-2,4-dione | 30 g, 90% | FC1=CC=C(CN2C(OC(C3=C2C=CC=C3)=O)=O)C=C1 | C15H10FNO3
